US07601754B2
1-(5-Amino-2-hydroxy-phenyl)-ethanone
A suspension of N-(3-acetyl-4-hydroxy-phenyl)-acetamide (1.029 g, 5.3 mmol) in 15% HCl (1.5 ml, 6.2 mmol, 1.2 equ) was heated to reflux for 40 minutes, then cooled and neutralised with 10% aqueous ammonia. The precipitated solid was collected by filtration as 1-(5-amino-2-hydroxy-phenyl)-ethanone (0.677 g, 84%) a green solid.

reactant | N-(3-acetyl-4-hydroxy-phenyl)-acetamide | 5.3 mmol, 1.029 g | C(C)(=O)C=1C=C(C=CC1O)NC(C)=O | C10H11NO3
reactant | HCl | 6.2 mmol, 1.5 ml | Cl | ClH
reactant | ammonia | N | H3N
product | 1-(5-Amino-2-hydroxy-phenyl)-ethanone | NC=1C=CC(=C(C1)C(C)=O)O | C8H9NO2
